US03998829
21-Formyl-3α-hydroxy-5α-pregnane-11,20-dione
A solution of 3α-hydroxy-21-dimethoxymethyl-5α-pregnane-11,20-dione (900 mg.) in glacial acetic acid (13 ml) and water (1.3 ml) was stirred at 75° C for 6 hours, then poured into a mixture of ice and water. The product was collected, washed with water and dried in vacuo to give title compound (395 mg), [α]D + 100.5° (c, 0.4), λmax. 268 nm (ε 6,325).

reactant | 3α-hydroxy-21-dimethoxymethyl-5α-pregnane-11,20-dione | 900 mg | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(CC(OC)OC)=O)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C | C24H38O5
solvent | acetic acid | 13 ml | C(C)(=O)O | C2H4O2
solvent | water | 1.3 ml | O | H2O
product | 21-Formyl-3α-hydroxy-5α-pregnane-11,20-dione | 395 mg | C(=O)CC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@@H](CC[C@]4(C)[C@H]3C(C[C@]12C)=O)O)=O | C22H32O4
